US05736520
3,4-Dioxo-5-[((phenylmethoxy)carbonyl)amino]-6-phenylhexanoic Acid Ethyl Ester
A solution of 4-hydroxy-6-phenyl-5-[((phenylmethoxy)carbonyl)amino]-3-oxohexanoic acid ethyl ester (397 mg, 1.0 mmol) is dissolved in acetonitrile (15 ml) and the Dess-Martin periodinane (1.27 g, 3.0 mmol)) is added. To the mixture trifluoroacetic acid (342 mg, 3.0 mmol) is added and the mixture is stirred for 48 h. The solvent is removed in vacuo and EtOAc (100 ml) is added, followed by the addition of a solution of NaHCO3 (0.80 g) and Na2S2O3 (1.41 g) in H2O (25 ml). The organic layer is separated and the aqueous phase extracted with ethyl acetate. The combined extracts are dried over Na2S2O3 and the solvent is removed in vacuo. The product is purified by flash chromatography on silica gel.

reactant | 4-hydroxy-6-phenyl-5-[((phenylmethoxy)carbonyl)amino]-3-oxohexanoic acid ethyl ester | 1.0 mmol, 397 mg | C(C)OC(CC(C(C(CC1=CC=CC=C1)NC(=O)OCC1=CC=CC=C1)O)=O)=O | C22H25NO6
reactant | Dess-Martin periodinane | 3.0 mmol, 1.27 g | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
reactant | trifluoroacetic acid | 3.0 mmol, 342 mg | FC(C(=O)O)(F)F | C2HF3O2
solvent | acetonitrile | 15 ml | C(C)#N | C2H3N
product | 3,4-Dioxo-5-[((phenylmethoxy)carbonyl)amino]-6-phenylhexanoic Acid Ethyl Ester | C(C)OC(CC(C(C(CC1=CC=CC=C1)NC(=O)OCC1=CC=CC=C1)=O)=O)=O | C22H23NO6
